US07960377B2
To a solution of methyl 6-(2-ethoxy-2-oxoethoxy)-5-nitronicotinate (2.43 g, 8.55 mmol) in AcOH (50 mL) was added iron powder (1.910 g, 34.2 mmol). The reaction was heated to 70° C. and stirred at that temperature for 2 hours. The reaction was concentrated in vacuo and diluted with water (300 mL). The solution was adjusted to pH=6 by addition of solid K3PO4. The aqueous layer was extracted with EtOAc (8×200 mL) and the combined organics were dried over anhydrous Na2SO4 and concentrated in vacuo. Methyl 2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (1.24 g, 5.96 mmol, 69.7% yield) was isolated as an off-white solid and used without purification. LCMS (+ESI) m/z=209.0 [M+H]+; 1H-NMR (DMSO-d6) δ 11.0 (s, 1H), 8.35 (d, 1H), 7.67 (d, 1H), 4.90 (s, 2H), 3.85 (s, 3H).

reactant | methyl 6-(2-ethoxy-2-oxoethoxy)-5-nitronicotinate | 8.55 mmol, 2.43 g | C(C)OC(COC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-])=O | C11H12N2O7
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
catalyst | iron | 34.2 mmol, 1.910 g | [Fe] | Fe
product | Methyl 2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 5.96 mmol, 1.24 g, 69.7% yield | O=C1NC2=C(OC1)N=CC(=C2)C(=O)OC | C9H8N2O4
